data/mechanism_extracts/JACS/10.1021_ja3034075.json
{"doi": "10.1021_ja3034075", "journal": "JACS", "is_review": false, "rxn_class_summary": "Copper-catalyzed enantioselective intramolecular alkene carboetherification (and hydroetherification) of pentenols to form fused tetrahydrofurans via oxycupration/radical aryl addition.", "mechanism_family": ["electrocatalysis_inner_sphere", "radical_polar_crossover", "other"], "electrochemical_role": null, "key_intermediates": [{"name": "Cu(II)-bisoxazoline alkene complex (cis-oxycupration TS-E)", "smiles": null, "role": "transient"}, {"name": "alkyl-Cu(II) tetrahydrofuran intermediate (28)", "smiles": null, "role": "reactive"}, {"name": "primary carbon radical from C-Cu(II) homolysis (29)", "smiles": null, "role": "reactive"}, {"name": "cyclohexadienyl/aryl radical after ipso/ortho addition (30)", "smiles": null, "role": "transient"}, {"name": "Cu(I) species (released after homolysis)", "smiles": null, "role": "transient"}, {"name": "2,3-trans tetrahydrofuranyl radical (ring-opening/closing equilibrium partner)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Cu(II)-bisoxazoline binds the alkene of the pentenol and undergoes cis-oxycupration to give an alkyl-Cu(II) THF intermediate; homolysis of the C-Cu(II) bond releases Cu(I) and a primary carbon radical, which adds to the tethered arene to give an aryl/cyclohexadienyl radical that is reoxidized (MnO2 reoxidizes Cu(I) to Cu(II)) and rearomatized to yield the fused bicyclic product.", "rate_determining_step": "C-C bond formation (radical addition of primary C-radical to the arene) is implicated as slow relative to H-atom abstraction by 1,4-cyclohexadiene", "probe_reagents": [{"name": "1,4-cyclohexadiene (H-atom donor)", "smiles": "C1=CCC=CC1", "purpose": "radical_trap", "observation": "Intercepts the carbon radical to give 2,3-trans tetrahydrofuran 27 in 82% yield (and 26 in 85% yield, 76% ee) instead of carboetherification product, confirming a carbon radical intermediate and that HAT is faster than C-C bond formation."}, {"name": "Deuterium-labeled 3-p-methoxybenzyl-4-penten-1-ol (10a-D)", "smiles": null, "purpose": "isotope_label", "observation": "Carboetherification gave 1.8:1 trans/cis 11a-D:12a-D, each as 1:1 diastereomeric mixture at the deuterated carbon, indicating loss of alkene stereochemistry consistent with an sp2 (radical) intermediate."}, {"name": "Regiochemical probe (ortho vs para arene addition)", "smiles": null, "purpose": "other", "observation": "Ortho-substituted product formed as major (ortho:para = 1.9:1), consistent with radical (not electrophilic/Friedel-Crafts) addition to the arene."}, {"name": "Chiral Cu(OTf)2/(R,R)-Ph-Box catalyst variation", "smiles": null, "purpose": "other", "observation": "Enantioselectivity (up to ~75% ee carboetherification, 76% ee hydroetherification) supports Cu involvement in the alkene oxycupration step."}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_other", "product_isotope_distribution", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Authors considered alternative C-C bond-forming mechanisms: (i) radical addition to arene (favored), (ii) electrophilic aromatic substitution via organocopper(III) (direct or via reductive elimination), and (iii) Friedel-Crafts on a primary carbocation (rejected as too high energy). The 2,3-trans selectivity in hydroetherification is rationalized via TS-D placing the allylic substituent pseudo-equatorial; diminished ee in carboetherification is attributed to reversible ring-opening/ring-closing of the carbon radical prior to C-C bond formation. MnO2 serves as terminal oxidant to regenerate Cu(II) from Cu(I)."}
